US04322429
MIXTURE OF 2,6-DICHLORO-N-METHYL-N-(5-(4-CHLOROPHENYL)-3-ISOXAZOLYL)BENZAMIDE AND THE ENDO-ALKYLATED TAUTOMER THEREOF
2,6-Dichloro-N-(5-(4-chlorophenyl)-3-isoxazolyl)benzamide (1 gram prepared according to the teaching of synthesis route III and Example 15) and sodium methoxide (160 milligrams in 100 ml. methanol) were placed in a reaction vessel and stirred for about 15 minutes. Excess methyl iodide was added and the reaction mixture was then heated to reflux for 4 hours. Upon cooling a solid formed which was filtered and then recrystallized from ethanol. NMR analysis confirmed that the final product was a mixture of exo- and endo-alkylated isoxazole, m.p.=175°-178° C.

reactant | 2,6-Dichloro-N-(5-(4-chlorophenyl)-3-isoxazolyl)benzamide | ClC1=C(C(=O)NC2=NOC(=C2)C2=CC=C(C=C2)Cl)C(=CC=C1)Cl | C16H9Cl3N2O2
reactant | methyl iodide | CI | CH3I
solvent | sodium methoxide | 100 ml, 160 milligrams | C[O-].[Na+]
product | 2,6-DICHLORO-N-METHYL-N-(5-(4-CHLOROPHENYL)-3-ISOXAZOLYL)BENZAMIDE | ClC1=C(C(=O)N(C2=NOC(=C2)C2=CC=C(C=C2)Cl)C)C(=CC=C1)Cl | C17H11Cl3N2O2
